US05371271
1.1 Preparation of 2-ethylhexyl N-(2-methoxyethyl)-carbamate (corresponding to European Patent Specification 0,027,940)
225 g (3.0 mols) of 2-methoxyethylamine, 180 g (3.0 mols) of urea, 1,950 g (15 mols) of 2-ethylhexanol and 3 g of dibutyltin oxide are introduced into a 4 liter round-bottom flask equipped with reflux condenser, and the mixture is heated while stirring. A vigorous evolution of ammonia sets in at temperatures above 110° C. Ammonia gas is removed through the reflux condenser and absorbed in water. Over the course of 3 hours, the temperature is increased to 180° C. (reflux), the elimination of ammonia virtually ceasing. After a further 2 hours under reflux, the mixture is freed of remaining ammonia by flushing with nitrogen and subsequently subjected to fractional distillation. After a first cut comprising mainly ethylhexanol, the desired urethane distills over at 98°-100° C./0.1 mbar as a colorless liquid (yield: 617 g=89% of theory). 27 g of a brown liquid remain as the distillation residue and solidify to give a pasty product on cooling.

reactant | 2-methoxyethylamine | 3.0 mols, 225 g | COCCN | C3H9NO
reactant | urea | 3.0 mols, 180 g | NC(=O)N | CH4N2O
reactant | 2-ethylhexanol | 15 mols, 1,950 g | C(C)C(CO)CCCC | C8H18O
reactant | dibutyltin oxide | 3 g | C(CCC)[Sn](CCCC)=O
reactant | ammonia | N | H3N
product | 2-ethylhexyl N-(2-methoxyethyl)-carbamate | COCCNC(OCC(CCCC)CC)=O | C12H25NO3
